US09302989B2
N-{4-[5-(morpholin-4-ylmethyl)-1,2,4-oxadiazol-3-yl]phenyl}-1,3-dihydro-2H-isoindole-2-carboxamide
To a 20 mL vial was added N-(4-(5-(chloromethyl)-1,2,4-oxadiazol-3-yl)phenyl)isoindoline-2-carboxamide (50 mg, 0.141 mmol) and morpholine (36.8 mg, 0.423 mmol) in DMF (470 μl). The mixture was heated to 50° C. for 30 minutes, cooled, and diluted with 2 mL methanol. Chromatography provided the title compound. 1H NMR (300 MHz, DMSO-d6) δ 8.69 (s, 1H), 7.92 (d, J=8.8 Hz, 2H), 7.80 (d, J=8.9 Hz, 2H), 7.35 (ddd, J=8.8, 3.9, 2.4 Hz, 4H), 4.80 (s, 4H), 3.95 (s, 2H), 3.68-3.48 (m, 4H), 2.62-2.51 (m, 5H); MS (ESI(+)) m/e 406 (M+H)+.

reactant | N-(4-(5-(chloromethyl)-1,2,4-oxadiazol-3-yl)phenyl)isoindoline-2-carboxamide | 0.141 mmol, 50 mg | ClCC1=NC(=NO1)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C18H15ClN4O2
reactant | morpholine | 0.423 mmol, 36.8 mg | N1CCOCC1 | C4H9NO
solvent | DMF | 470 μl | CN(C)C=O | C3H7NO
solvent | methanol | 2 mL | CO | CH4O
product | N-{4-[5-(morpholin-4-ylmethyl)-1,2,4-oxadiazol-3-yl]phenyl}-1,3-dihydro-2H-isoindole-2-carboxamide | N1(CCOCC1)CC1=NC(=NO1)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C22H23N5O3
